US08222416B2
To a solution of 1-(tert-butyl-dimethyl-silanyl)-5-ethylsulfanyl-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine (2.2 g, 7.6 mmol) in dichloromethane (50 mL) was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (2.07 g, 9.1 mmol) at room temperature. After stirring for 12 h at room temperature, the mixture was concentrated. The residue. was purified by flash column chromatography (Qingdao silica gel, 300 mesh, 11% dichloromethane/hexanes) to afford 1-(tert-butyl-dimethyl-silanyl)-5-ethylsulfanyl-1H-pyrrolo[2,3-b]pyridine (0.5 g, 23%) as a yellow oil: LC/MS m/e calcd for C15H24N2SSi [M+H]+ 292.52.

reactant | 1-(tert-butyl-dimethyl-silanyl)-5-ethylsulfanyl-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine | 7.6 mmol, 2.2 g | C(C)(C)(C)[Si](N1CCC=2C1=NC=C(C2)SCC)(C)C | C15H26N2SSi
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 9.1 mmol, 2.07 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(tert-butyl-dimethyl-silanyl)-5-ethylsulfanyl-1H-pyrrolo[2,3-b]pyridine | 0.5 g, 23% | C(C)(C)(C)[Si](N1C=CC=2C1=NC=C(C2)SCC)(C)C | C15H24N2SSi
